US07439260B2
Step 2: (4-Bromo-2-hydroxyphenyl)(4-fluorophenyl)methanone
A mixture of (4-bromo-2-methoxyphenyl)(4-fluorophenyl)methanone (1.60 g, 5.18 mmol) and pyridine hydrochloride (15.0 g, 130 mmol) was heated at 170° C. for 4.5 h and allowed to cool to rt. The resulting mixture was diluted with Et2O and washed with a 2N HCl solution. The ether layer was extracted twice with a 1N NaOH solution. The combined aqueous layers were acidified and extracted with Et2O, and the combined organics dried (MgSO4), filtered and concentrated. The title compound was obtained as a yellow solid, slightly contaminated with an impurity. It was used as such in the following step.

reactant | (4-bromo-2-methoxyphenyl)(4-fluorophenyl)methanone | 5.18 mmol, 1.60 g | BrC1=CC(=C(C=C1)C(=O)C1=CC=C(C=C1)F)OC | C14H10BrFO2
reactant | pyridine hydrochloride | 130 mmol, 15.0 g | Cl.N1=CC=CC=C1
solvent | Et2O | CCOCC | C4H10O
product | (4-Bromo-2-hydroxyphenyl)(4-fluorophenyl)methanone | BrC1=CC(=C(C=C1)C(=O)C1=CC=C(C=C1)F)O | C13H8BrFO2
